Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Augmentin
 
Attending: ___.
 
Chief Complaint:
s/p Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F with PMHx of dementia, gait d/o with history of falls,
hypertension, CAD, spinal stenosis presents from ___ 
after
an unwitnessed fall at nursing home. Patient is unable to relate
story of how she fell or whether she had loss of consciousness
following the fall. She states she currently has significant 
pain
located mostly in the right shoulder. Details of the story 
difficult
to ascertain due to baseline dementia.

While in ___ she developed V-tach - 10 beat run on 2 episodes and 
was given 150mg Amiodarone. 

 
Past Medical History:
left hip fx w ORIF, ___  
dementia of unknown source  
depression  
anxiety  
gait disorder w hx of falls  
hypothyroidism  
htn on atenolol  
cataracts  
CAD w past poss inferior/anterior ischemia  
spinal stenosis  
urinary incontinence, resolved  
CRI stage III  
___ fx of left rib  
RBBB, LAFB as of ___  

 
Social History:
___
Family History:
Non specific heart problems in both parents and 1 brother with a 
heart issue. A sister died from unknown cause. 
 
Physical Exam:
Upon presentation to ___:
T 98.2 P 74 BP 144/77 R 18 SpO2 99% 3L
GEN: elderly woman in c-collar w/ racoon eyes, NAD
HEENT: racoon eyes, 
CV: RRR
PULM: CTABL
ABD: soft, NT, ND
Ext: several ecchymoses

MS: alert, oriented to hospital, not to date or year. Unable to
related details of history. Language was fluent w/ no paraphasic
errors. 
CN: pupils 2 mm - 1.5 mm reactive, EOMI no nystagmus, facial
sensation intact b/l, smile symmetric, hearing intact b/l, 
palate
symmetric, tongue midline
Motor: increased tone b/l ___, able to grasp finger b/l in hands,
not moving R arm due to pain from shoulder dislocation, L arm
strength intact, able to lift both legs and move feet b/l
Sensory: intact to painful stimuli in all 4 extremities
Coordination: no dymetria w/ L hand on FNF, limited exam on R
hand due to dislocation
Reflexes: symmetric and ___ in ___, toes b/l flexion
Gait: not tested

 
Pertinent Results:
___ 09:38PM   GLUCOSE-118* UREA N-14 CREAT-0.6 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ 09:38PM   CALCIUM-8.9 PHOSPHATE-2.7 MAGNESIUM-1.8
___ 09:38PM   WBC-8.3# RBC-4.33 HGB-13.3 HCT-40.0 MCV-92 
MCH-30.6 MCHC-33.2 RDW-13.5
___ 09:38PM   PLT COUNT-175
___ 09:38PM   ___ PTT-23.8 ___

Micro/Imaging:
___ CT head 8-9 mm parafalcine SDH without significant mass 
effect  
___ CT C-spine 
___ B hips s/p ORIF L femur, no acute dislocation/fracture  

___ Left ankle no acute dislocation/fracture  
___ Right shoulder normal anatomic alignment  

 
Brief Hospital Course:
She was admitted to the ACS service and evaluated by Orthopaedic 
Spine and Neurosurgery. Her injuries were managed non 
operatively. She underwent MRI imaging of her cervical spine for 
concern of an occult or ligamentous injury; her CT cervical 
spine however did not show any fractures. The MRI scan did not 
revela any acute injuries but was noted with multilevel cervical 
spondylosis, severe at C3-4 and C5-6. The hard cervical collar 
was removed and she is being recommended to wear a soft collar 
for comfort prn. 
 
Her neurologic status was monitored closely and it appears that 
she is back to her baseline dementia. Her aspirin was withheld 
and can be resumed ON ___. She will follow up in ___ 
clinic in 4 weeks for a repeat head CT scan.

She was treated with Ciprofloxacin 3 day course for a urinary 
tract infection.

Physical therapy was consulted and has recommended rehab after 
her acute hospital stay.

 
Medications on Admission:
Senokot 2 tabs BID, calcium carbonate 650 mg BID, seroquel 37.5 
mg QHS, aricept 10 mg QHS, oxycontin 10 mg BID, oxycodone 2.5 mg 
Q6H PRN pain, synthroid ___ mcg daily, flonase 1 spray both 
nares daily, aspirin 81 mg daily, zestril 10 mg daily, prilosec 
80 mg daily, sorbitol 30 mL daily, tylenol ___ mg daily at noon, 
fosamax 70 mg every ___, vitamin D-2 ___ units every 21 
days, milk of mag 30 mL PRN constipation, bengay PRN pain 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
4. Calcium Carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO three times a day.  
5. Vitamin D 400 unit Capsule Sig: Two (2) Capsule PO once a 
day.  
6. Fosamax 70 mg Tablet Sig: One (1) Tablet PO EVERY ___ 
MORNING BEFORE BREAKFAST.  
7. Quetiapine 25 mg Tablet Sig: ___ Tablet PO QHS (once a day 
(at bedtime)).  
8. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
9. Oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.  
10. Levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
12. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Sorbitol 70 % Solution Sig: Thirty (30) ML Miscellaneous 
DAILY (Daily).  
14. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
15. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 1 days.  
16. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
17. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours). 
18. RESUME BABY ASA 81 MG DAILY PO ON ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Fall
Subdural hemorrhage
Multilevel cervical spondylosis, severe at C3-4 and C5-6 
Right shoulder dislocation (relocated now)
Urinary tract infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You must wea the hard cervical collar for at least ___ weeks 
until tols that it can be removed by Orthopedic Spine Surgery. 
The collar may be removed for personal hygiene.
 
Followup Instructions:
___